* Full-Wave Bridge Rectifier
* EEAI Hackathon Baseline Solution — Circuit 01
*
* Topology  : 4-diode bridge rectifier
* Source    : Vs = 120 VRMS / 169.7 Vpeak @ 60 Hz (transformer secondary)
* Load      : R = 1 kΩ
* Output    : Full-wave rectified DC across R (Vout)
*
* Nodes:
*   VAC_A  — AC input terminal A (transformer secondary +)
*   VAC_B  — AC input terminal B (transformer secondary −)
*   VOUT   — DC positive output  (+Vo)
*   0      — DC ground / negative output (−Vo)

*--------------------------------------------------------------
* AC Source  (floating transformer secondary)
*--------------------------------------------------------------
V1 VAC_A VAC_B SIN(0 169.7 60)

* Large bias resistor to establish a DC ground reference
* (does not affect circuit behaviour at 60 Hz)
R_bias VAC_B 0 1G

*--------------------------------------------------------------
* Bridge diodes  (1N4007, 1 kV / 1 A rectifier)
*--------------------------------------------------------------
* Upper pair — steer current to VOUT
D1 VAC_A VOUT 1N4007
D2 VAC_B VOUT 1N4007

* Lower pair — return current to GND
D3 0 VAC_A 1N4007
D4 0 VAC_B 1N4007

*--------------------------------------------------------------
* Load resistor
*--------------------------------------------------------------
R1 VOUT 0 1k

*--------------------------------------------------------------
* Diode model — 1N4007 (standard rectifier)
*--------------------------------------------------------------
.model 1N4007 D(IS=4.352n N=1.906 RS=0.6458 IKF=0 XTI=3 EG=1.11
+              CJO=0 M=0.3333 VJ=0.75 FC=0.5
+              ISR=1.565u NR=2 BV=1000 IBV=100u TT=0)

*--------------------------------------------------------------
* Transient analysis — 5 full cycles (83.3 ms), 10 µs step
*--------------------------------------------------------------
.tran 10u 83.3ms 0 10u

*--------------------------------------------------------------
* Measurements
*--------------------------------------------------------------
* Average output voltage (theoretical peak*(2/π) ≈ 108 V)
.meas TRAN Vavg AVG V(VOUT) FROM 16.7ms TO 83.3ms

* Peak output voltage (expect ~168.7 V, i.e. Vpeak − 2×Vf)
.meas TRAN Vpeak MAX V(VOUT) FROM 16.7ms TO 83.3ms

* Ripple (peak-to-peak variation after first cycle)
.meas TRAN Vripple PP V(VOUT) FROM 16.7ms TO 83.3ms

*--------------------------------------------------------------
* Save voltages for plotting
*--------------------------------------------------------------
.save V(VAC_A) V(VAC_B) V(VOUT)

.end
